US08729300B2
In a 3-L round-bottomed flask was placed valproic acid (144 g, 1 mole) and 40% NaOH aqueous solution (50 g, 0.5 mole). The resulting solution was then put on a rotavaper, applied vacuum, and heated up slowly (e.g., water bath temperature from room temperature to 95° C.) to remove the water. Upon completion of the water removals the reaction mixture was allowed to cool down to room temperature to obtain divalproex sodium (154 g, 100%).

reactant | valproic acid | 1 mole, 144 g | C(C(CCC)CCC)(=O)O | C8H16O2
reactant | NaOH | 0.5 mole, 50 g | [OH-].[Na+]
solvent | water | O | H2O
product | divalproex sodium | 154 g, 100% | CCCC(CCC)C(=O)O.CCCC(CCC)C(=O)[O-].[Na+] | InChI=1S/2C8H16O2.Na/c2*1-3-5-7(6-4-2)8(9)10;/h2*7H,3-6H2,1-2H3,(H,9,10);/q;;+1/p-1
